US04985560
A stirred solution of 2-indolizinecarboxylic acid, methyl ester (91.42 g, 0.522 mole) and anhydrous sodium acetate (42.53 g, 0.52 mole) in acetic anhydride (1.1 L) was refluxed, under anhydrous conditions, for 48 hours. After cooling most of the acetic anhydride was evaporated in vacuo. The resulting residue (150 ml) was cooled in an ice water bath and methanol (140 ml) was added to destroy the remaining acetic anhydride. The resulting mixture was poured into water (1.1 L) and the product was extracted with diethyl ether, three times. The ethereal layer was washed with saturated sodium bicarbonate solution, three times, with water, two times, and was dried over magnesium sulfate. Evaporation of solvent yielded 112 g of crude 3-acetyl-2-indolizinecarboxylic acid, methyl ester which was chromatographed on silica gel (3 kg) using 10% acetone in benzene as eluant, to afford the pure compound (85.5 g). For analysis, the product was recrystallized from a mixture of diethyl ether and petroleum ether.

reactant | 2-indolizinecarboxylic acid, methyl ester | 0.522 mole, 91.42 g | C=1C(=CN2C=CC=CC12)C(=O)OC | C10H9NO2
reactant | sodium acetate | 0.52 mole, 42.53 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 1.1 L | C(C)(=O)OC(C)=O | C4H6O3
product | 3-acetyl-2-indolizinecarboxylic acid, methyl ester | 112 g | C(C)(=O)C1=C(C=C2C=CC=CN12)C(=O)OC | C12H11NO3
